US04766212
A solution of 1.21 g of trans-3,4,4a,5,6,11b-hexahydro-2H-[1]benzoxepino[5,4-b]-1,4-oxazine hydrochloride, prepared according to the procedure of Example 2, and 1.65 ml of triethylamine in 25 ml of methylene chloride is treated dropwise with a solution of 0.70 ml of chloroacetyl chloride dissolved in 10 ml of methylene chloride. The reaction mixture is stirred overnight at room temperature, washed with a dilute solution of hydrochloric acid, followed by a water wash, a wash of dilute sodium hydroxide solution and finally by a wash of a saturated solution of sodium chloride. The reaction mixture is dried over anhydrous magnesium sulfate and evaporated to dryness to obtain 1.44 g of trans-N-chloroacetyl-3,4,4a,5,6,11b-hexahydro-2H-[1]-benzoxepino[5,4-b]-1,4-oxazine.

reactant | trans-3,4,4a,5,6,11b-hexahydro-2H-[1]benzoxepino[5,4-b]-1,4-oxazine hydrochloride | 1.21 g | Cl.O1[C@H]2[C@H](NCC1)CCOC1=C2C=CC=C1
reactant | triethylamine | 1.65 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.70 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | trans-N-chloroacetyl-3,4,4a,5,6,11b-hexahydro-2H-[1]-benzoxepino[5,4-b]-1,4-oxazine | 1.44 g | ClCC(=O)N1[C@H]2[C@H](OCC1)C1=C(OCC2)C=CC=C1 | C14H16ClNO3
